Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Shellfish Derived / vancomycin
 
Attending: ___.
 
Chief Complaint:
fall
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ h/o anxiety, depression, multiple orbital fractures status
post repair from prior assault who presents after fall down 15
flight of stairs last night. Pt reports that her gait has always
been unstable since her foot drop. She reports falling down
flight of 15 stairs at 3 AM. She initially did not report to
hospital, but presented to hospital after finding blood on her
pillow and pain while rolling over. She reports pain all on her
left side- shoulder, elbow, and knee. Reports not being able to
put weight on left knee.  Trauma surgery was consulted for
further evaluation after the patient was transferred from an
outside hospital.  She endorses pain upon palpation on T-spine
and L-spine.  At the outside hospital head CT and extremity
x-rays were performed for which the head CT was negative and
x-ray was only positive for a coracoid fracture of the left.  
She
is otherwise feeling well.

 
Past Medical History:
GERD
Anxiety
Depression
s/p assault in her home ___ resulting in ~6 weeks of
hospitalization for multiple orbital fractures, s/p several
reconstructive surgeries (last ___ months ago).  Reports that 
at
baseline she can distinguish faces and read, unclear what her
visual acuity is (followed at ___).  Given difficulties with
entropion on her left eye, there has been discussion of sewing
that lid shut.

 
Social History:
___
Family History:
NC
 
Physical Exam:
Physical Exam:
Vitals:HR: 74, BP: 104/76 RR: 18 O2: 98% RA
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR
PULM: Clear to auscultation b/l
ABD: Soft, nondistended, nontender, no rebound or guarding,
normoactive bowel sounds, no palpable masses. ex lap scar 
Ext: Pain on left shoulder, no ___ edema, ___ warm and well 
perfused
Back: Focal tenderness upon palpation on T-spine and L-spine
MSK: Pain upon tenderness on left shoulder and left elbow. Pain 
with movement on left shoulder.

 
Pertinent Results:
___ 10:35PM   GLUCOSE-84 UREA N-10 CREAT-0.6 SODIUM-141 
POTASSIUM-5.7* CHLORIDE-104 TOTAL CO2-25 ANION GAP-12
___ 10:35PM   LIPASE-42
___ 10:35PM   HCG-<5
___ 10:35PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 10:35PM   WBC-7.8 RBC-4.12 HGB-12.4 HCT-38.7 MCV-94# 
MCH-30.1# MCHC-32.0 RDW-13.3 RDWSD-45.7
___ 10:35PM   NEUTS-56.8 ___ MONOS-10.1 EOS-3.8 
BASOS-0.1 IM ___ AbsNeut-4.44 AbsLymp-2.28 AbsMono-0.79 
AbsEos-0.30 AbsBaso-0.01

CT TORSO ___
IMPRESSION: 
  
1. Nondisplaced left coracoid fracture with mild adjacent soft 
tissue 
stranding. 
2. No additional fracture or acute trauma in the torso. 

CT C-SPINE ___:
IMPRESSION: 
  
1. Comminuted fracture of the left C7 transverse process.  No 
other cervical fractures are identified. 
2. A well corticated linear lucency through the anterior aspect 
left C7 
transverse foramina is felt to most likely represent a nutrient 
channel.  
However, if there is high clinical suspicion for acute fracture, 
CTA of the neck is advised to evaluate for vascular injury. 
3. Additional findings including multilevel degenerative changes 
as described above. 

 
Brief Hospital Course:
Ms ___ was admitted to the ___ service after she sustained a 
fall down 12 stairs. CT Torso and C spine were positive only for 
a L coracoid process fracture that was nondisplaced as well as a 
comminuted C7 transverse process fracture. She also endorsed 
some L knee pain, however this pain resolved with ace wrap and 
elevation.  She underwent OT and Orthopedic surgery evaluation, 
who recommended outpatient OT and non-weightbearing status in 
the LUE with a sling for comfort, and she will follow up in 
Orthopedic surgery clinic in 2 weeks.  Upon discharge, the 
patient's pain was adequately controlled, she was voiding, 
tolerating a regular diet, and able to conduct ADLs.  
 
Medications on Admission:
Prozac 20 mg capsule oral
3 capsule(s) Once Daily

 omeprazole 20 mg capsule,delayed release oral
1 capsule,delayed ___ Once Daily

 Ambien 10 mg tablet oral
1 tablet(s) Once Daily, at bedtime
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild  
2.  Artificial Tears ___ DROP BOTH EYES PRN dry eyes  
3.  Docusate Sodium 100 mg PO BID 
Hold for loose stool. 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*30 Capsule Refills:*0 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *oxycodone [Oxaydo] 5 mg ___ tablet(s) by mouth every ___ 
hours Disp #*20 Tablet Refills:*0 
5.  Senna 8.6 mg PO BID:PRN constipation  
6.  FLUoxetine 60 mg PO DAILY  
7.  Omeprazole 20 mg PO DAILY  
8.  Zolpidem Tartrate ___ mg PO QHS:PRN insomnia 
We recommend that you do not take this medication while taking 
oxycodone.  
9.Outpatient Occupational Therapy
MECHANISM: Fall down 15 stairs
SIDE: LEFT
BONE: Scapula
LOCATION: coracoid
PATTERN: OBLIQUE
DISPLACEMENT: NONDISPLACED
TYPE: CLOSED
TISSUE CLASSIFICATION: CLOSED
EPISODE OF CARE: INITIAL

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Comminuted fracture of the left C7 transverse process
Left coracoid process fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

You were admitted to ___ after 
you had a fall and broke your scapula.  You were seen by 
Orthopedic surgery as well as Occupational Therapy and Physical 
Therapy.  You were given a sling to wear for comfort whenever 
you are awake and walking around, and you should follow up with 
both Orthopedic Surgery and Occupational Therapy as scheduled. 

It was a pleasure to take care of you here at ___.  We wish 
you a speedy recovery. 

 
Followup Instructions:
___